### PR TITLE
[Merged by Bors] - chore: robustifying for debug.byAsSorry (part 12)

### PR DESCRIPTION
**Pull request by edegeltje**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/NoncommPiCoprod.lean [hunk 1]
```diff
@@ -167,16 +167,16 @@ variable {G : Type*} [Group G]
...
 -- We use `f` and `g` to denote elements of `Π (i : ι), H i`
 variable (f g : ∀ i : ι, H i)
 
 namespace MonoidHom
-
 -- The subgroup version of `MonoidHom.noncommPiCoprod_mrange`
 @[to_additive]
-theorem noncommPiCoprod_range : (noncommPiCoprod ϕ hcomm).range = ⨆ i : ι, (ϕ i).range := by
+theorem noncommPiCoprod_range
+    {hcomm : Pairwise fun i j : ι => ∀ (x : H i) (y : H j), Commute (ϕ i x) (ϕ j y)}:
```
Comment (semorrison) [inline Mathlib/GroupTheory/NoncommPiCoprod.lean:178]:
```suggestion
    {hcomm : Pairwise fun i j : ι => ∀ (x : H i) (y : H j), Commute (ϕ i x) (ϕ j y)} :
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -246,12 +246,13 @@ theorem lt_limit {o} (h : IsLimit o) {a} : a < o ↔ ∃ x < o, a < x := by
   simpa only [not_forall₂, not_le, bex_def] using not_congr (@limit_le _ h a)
 
 @[simp]
-theorem lift_isLimit (o) : IsLimit (lift o) ↔ IsLimit o :=
+theorem lift_isLimit (o:Ordinal.{v}) : IsLimit (lift.{u,v} o) ↔ IsLimit o :=
```
Comment (semorrison) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:249]:
```suggestion
theorem lift_isLimit (o : Ordinal.{v}) : IsLimit (lift.{u,v} o) ↔ IsLimit o :=
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -200,7 +200,7 @@ theorem pred_le {a b} : pred a ≤ b ↔ a ≤ succ b :=
 theorem lift_is_succ {o : Ordinal.{v}} : (∃ a, lift.{u} o = succ a) ↔ ∃ a, o = succ a :=
   ⟨fun ⟨a, h⟩ =>
     let ⟨b, e⟩ := lift_down <| show a ≤ lift.{u} o from le_of_lt <| h.symm ▸ lt_succ a
-    ⟨b, lift_inj.1 <| by rw [h, ← e, lift_succ]⟩,
+    ⟨b, (lift_inj.{u,v}).1 <| by rw [h, ← e, lift_succ]⟩,
```
Comment (semorrison) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:203]:
```suggestion
    ⟨b, lift_inj.1 <| by rw [h, ← e, lift_succ]⟩,
```
revert, seems unnecessary?

**Comment by semorrison** [comment]
bors d+
